US04863921
1-AMINO-2-CHLORO-6,7,8,9-TETRAHYDRODIBENZOFURAN-4-CARBOXYLIC ACID 1-AMINO-2-CHLORODIBENZOFURAN-4-CARBOXYLIC ACID
When the procedure of Example 15 is followed however methyl 1-acetylamino-2-chloro-5a,6,7,8,9,9a-hexahydrodibenzofuran-4-carboxylate is replaced by methyl 1-acetylamino-2-chloro-6,7,8,9-tetrahydro-dibenzofuran-4-carboxylate or methyl 1-acetylamino-2-chlorodibenzofuran-4-carboxylate then the captioned products are prepared.

reactant | methyl 1-acetylamino-2-chloro-5a,6,7,8,9,9a-hexahydrodibenzofuran-4-carboxylate | C(C)(=O)NC1=C(C=C(C=2OC3C(C21)CCCC3)C(=O)OC)Cl | C16H18ClNO4
reactant | methyl 1-acetylamino-2-chloro-6,7,8,9-tetrahydro-dibenzofuran-4-carboxylate | C(C)(=O)NC1=C(C=C(C=2OC3=C(C21)CCCC3)C(=O)OC)Cl | C16H16ClNO4
reactant | methyl 1-acetylamino-2-chlorodibenzofuran-4-carboxylate | C(C)(=O)NC1=C(C=C(C=2OC3=C(C21)C=CC=C3)C(=O)OC)Cl | C16H12ClNO4
product | 1-AMINO-2-CHLORO-6,7,8,9-TETRAHYDRODIBENZOFURAN-4-CARBOXYLIC ACID 1-AMINO-2-CHLORODIBENZOFURAN-4-CARBOXYLIC ACID | NC1=C(C=C(C=2OC3=C(C21)C=CC=C3)C(=O)O)Cl.NC3=C(C=C(C=2OC1=C(C23)CCCC1)C(=O)O)Cl | InChI=1S/C13H12ClNO3.C13H8ClNO3/c2*14-8-5-7(13(16)17)12-10(11(8)15)6-3-1-2-4-9(6)18-12/h5H,1-4,15H2,(H,16,17);1-5H,15H2,(H,16,17)
